US05143920
3-butyryl-4-chloro-8-fluoroquinoline (1.75 g, 7 mmol), 4-amino-3-methylphenol (1.3 g, 10 mmol) and 1,4-dioxan (50 ml) were heated at reflux for 6.5 hours, then the solvent evaporated and the product converted to free base. Recrystallisation from methanol gave 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-fluoroquinoline (1.2 g), m.p. 205°-207°.

reactant | 3-butyryl-4-chloro-8-fluoroquinoline | 7 mmol, 1.75 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)F | C13H11ClFNO
reactant | 4-amino-3-methylphenol | 10 mmol, 1.3 g | NC1=C(C=C(C=C1)O)C | C7H9NO
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-fluoroquinoline | 1.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)F | C20H19FN2O2
